Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
bee venom (honey bee) / ibuprofen
 
Attending: ___.
 
Chief Complaint:
abddominal pain
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy

 
History of Present Illness:
___ yo male with chronic back pain on chronic narcotics who 
presented to ___ ___ with acute severe abd pain, 
nausea/emesis. Pt reported pain present for 3 days. Also with 
fever and generalized weakness. He has had similar attacks in 
the past. CT showed dilated intrahepatics with normal CBD and PD 
dilation.  MRCP with mild dilation of intrahepatics with nl 
gallbladder and borderline PD.  Pt's pain noted to be improving 
prior to transfer.  Pt transferred for ERCP.

He then had ERCP with evidence of ampullary stenosis, and 
sphincterotomy was performed. Post procedure, patient developed 
severe abd pain. CT did not show perforation or other post 
procedure complication. Pt with significant fecal loading. He 
was then admitted to the floor for observation.

On arrival to floor pt reporting ___ abd pain while conversing 
on the phone. No other complaints.

ROS: +as above, otherwise reviewed and negative

 
Past Medical History:
chronic back pain
left peroneal nerve palsy
Lumbar disc disease
hernia
PVD
 
Social History:
___
Family History:
mother: thyroid ca
Father: CAD, prostate ca
 
Physical Exam:
Vitals: T:98.2 BP:137/91 P:57 R:20 O2:99%ra  
PAIN: 7
General: nad
Lungs: clear
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, mildly tender RUQ, nd
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands

Discharge exam:
afebrile, VSS
Exam as above except:
Abd: soft, non-tender, active bowel sounds
Neuro: left foot with absent dorsiflexion
 
Pertinent Results:
ERCP ___:

The scout film was normal. 
The major papilla was normal. 
The pancreatic duct was partially filled with contrast and 
visualized proximally. The pancreatic duct was mildly dilated.
The bile duct was deeply cannulated with the sphincterotome. 
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. 
The CBD was mildly dilated and ectatic with a maximal diameter 
of 12 mm in diameter. 
There were no filling defects identified in the CBD or CHD. 
Opacification of the gallbladder was incomplete. 
The left and right hepatic ducts and all intrahepatic branches 
were all mildly dilated.

A sphincterotomy was performed with a sphincterotome. There was 
no post sphincterotomy bleeding. 
The biliary tree was swept with a 8.5-11.5mm balloon starting at 
the bifurcation. 
Cytology samples were obtained for histology from the ampullary 
region using a brush. 
Cold forceps biopsies were then taken from the ampulla for 
histology. 
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically.

All of the above findings are in keeping with ampullary 
stenosis. 

CT abdomen/pelvis (prelim report):
No evidence of perforation or pancreatitis. Mild dilatation of 
the intra and extrahepatic bile ducts as well as the pancreatic 
duct without obstructing stone or mass identified. 
  
Multiple one centimeter or smaller hypervascular lesions are 
seen in the right hepatic lobe. While these are favored to be 
benign in etiology, given patient demographics, multiplicity, 
and presence of duct dilatation further characterization with 
MRI is recommended

Discharge labs:

WBC RBC  Hgb  Hct  MCV MCH  MCHC RDW Plt Ct
5.2 3.71 12.3 37.3 101 33.3 33.1 12.4 201

Glucose UreaN Creat Na  K   Cl  HCO3
   97     8    0.7  141 4.5 106  28

ALT 16
AST 17
alk phos 50
t bil 0.5

___ RESULTS (prior to 
transfer)**********
Head CT ___ Conclusion: no evidence of acute intracranial 
abnormality

CT Abd/Pelvis ___ Conculsion: Mild diffuse intrahepatic 
biliary dilation and mild diffuse pancreatic ductal dilation. 
Normal caliber CBD. While nonspecific, obstruction at the level 
of the ampulla should be excluded.

MRCP ___ Conculsion: Nonspecific intra and extrahepatic 
biliary dilation. Ampullary lesion cannot be excluded.

___ WBC 4.9
Hgb 12.9
Cr 0.70
BUN 10
Tbili 0.5
APhos 48
AST 20
ALT ___ year old male w/chronic back pain on chronic narcotics who 
presented to ___ ___ with acute severe abd pain, 
nausea/emesis. Now admitted for monitoring post ERCP.

Biliary Dilation: ___ ampullary stenosis, s/p ERCP 
w/sphincerotomy.  Pathology pending, will follow up results and 
communicate to PCP and patient.  Advanced diet without 
difficulty day after procedure, with benign abdominal exam at 
discharge.

Liver lesions: likely hemangiomas.  MRCP on ___ at OSH 
already obtained.  Will send disc from ___ to PCP to compare 
to prior imaging.  Discussed with PCP.

Abdominal Pain: continued home medications.  Added bowel regimen

Left foot peroneal nerve palsy: patient will continue to use 
boot for ambulation.

full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Morphine SR (MS ___ 60 mg PO QAM 
2. Morphine SR (MS ___ 90 mg PO HS 
3. OxycoDONE (Immediate Release)  15 mg PO Q4H:PRN breakthrough 
pain 

 
Discharge Medications:
1. Morphine SR (MS ___ 60 mg PO QAM 
2. Morphine SR (MS ___ 90 mg PO HS 
3. OxycoDONE (Immediate Release)  15 mg PO Q4H:PRN breakthrough 
pain 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0
5. Senna 1 TAB PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
ampullary stenosis

Secondary diagnosis:
chronic pain
left peroneal nerve palsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance with left 
walking boot for management of left peroneal nerve palsy

 
Discharge Instructions:
You were admitted for observation following ERCP.  The ERCP 
showed that the end of the bile duct was narrowed, which may be 
a cause of your symptoms.  You underwent a sphincterotomy to 
help address this narrowing.  You had some pain after the 
procedure, and a CT scan did not show any complications.

Please see below for your follow up appointments and 
medications.  
 
Followup Instructions:
___